US06767922B2
Preparation of N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-isopropylurea
A solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (150 mg, 0.67 mmol) and isopropyl isocyanate (80 μL, 0.81 mmol) in 1 mL of N,N-dimethyl-formamide was stirred at room temperature for 20 hours. The mixture was diluted with ethyl acetate and washed with water to give the crude. Purification upon column chromatograph on silica gel, eluting with ethyl acetate/hexane (50/50, v/v), followed by recrystallization from acetone and hexane, gave the desired product (111 mg, 54%). LC-MS (m/z) 308.0 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.67 mmol, 150 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | isopropyl isocyanate | 0.81 mmol, 80 μL | C(C)(C)N=C=O | C4H7NO
solvent | N,N-dimethyl-formamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-isopropylurea | 111 mg, 54% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC(C)C)O | C10H14ClN3O4S
